Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
CHEST PAIN
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ MDD, benzodiazepine abuse with medication seeking behavior, 
Hep C, prior IVDA now on suboxone, seizures with benzo 
withdrawal (___), and recent self-harm behaviors transferred 
from ___ for possible syncopal event 
and chest pain.  The patient was hospitalized at ___ from 
___ (6 days prior to ___ transfer) for monitored 
benzodiazepine detoxification. She left on ___ (6 days prior 
to ___ transfer), then returned on ___ to ___ (1 day 
prior to ___ transfer) where she was admitted for suicidal 
thoughts and self harm behaviors with positive urine toxicology 
screen for benzodiazepines.  She reports she has been having 
intermittent sharp left sided chest pains associated with left 
arm/hand tingling, comes at rest, not associated with activity.  
She was at ___ yesterday in her USOH eating crackers when 
she suddenly felt very dizzy and then woke up confused. The 
event was witnessed and described second-hand by Dr. ___ 
(Psychiatric Attending Physician at ___ as the patient 
"slouching in her chair without loss of consciousness".  
Following the event she was confused about where she was and 
complained of left chest pain that persisted for a few hours.  

In the ED, her vital signs and EKG were normal.  

 
Review of Systems:  
(+)  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 

She specifically denies suicidal ideation.
 
Past Medical History:
Medical Diagnoses:
- Hypertension  
- GERD  
- Past IVDU, now on suboxone (Prescribed by Dr. ___ 
___ at ___ in ___ ___
- Seizure due to benzodiazepine withdrawal ___, ___ ED Note)
- Hep C

Psychiatric Diagnoses:
- Depression s/p inpatient admission and ECT x8   
- Benzodiazepine abuse
- Opiate dependence 
- Anxiety disorder
- Mood disorder NOS
- Substance induced mood disorder
 
Social History:
___
Family History:
Father: MI, age ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
-----------
VS: T 98.3 BP 129/55 71 16 100%RA
General: Comfortable, no distress
HEENT: OP clear
Neck: No jvd
CV: RRR, no murmurs, no s3/s4
Lungs: CTA bilaterally, no wheezes/crackles
Abdomen: soft, nontender
Ext: warm, well perfused, DP pulses 2+ bilaterally, no edema
Neuro: 
-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  4*   4*  4*  4*  4* 4* ___    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
*pain-limited
-Sensory: No deficits to light touch, pinprick, vibratory sense,
or proprioception throughout (although slow to answer). No
extinction to DSS. +Tinel sign on left wrist.
-DTRs: 3+ throughout. Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Slightly unsteady, unable to do perform tandem gait falls
to both sides.

DISCHARGE PHYSICAL EXAM:
---------------
VS: T 98.8 BP 126/822 72 18 97/RA
General: Comfortable, anxious. 
HEENT: OP clear
Neck: No jvd
CV: RRR, no murmurs, no s3/s4
Lungs: CTA bilaterally, no wheezes/crackles
Abdomen: soft, nontender
Ext: warm, well perfused, DP pulses 2+ bilaterally, no edema
Neuro: (unchanged)
-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  4*   4*  4*  4*  4* 4* ___    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
*pain-limited
-Sensory: No deficits to light touch, pinprick, vibratory sense,
or proprioception throughout (although slow to answer). No
extinction to DSS. +Tinel sign on left wrist.
-DTRs: 3+ throughout. Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Slightly unsteady, unable to do perform tandem gait falls
to both sides.

 
Pertinent Results:
ADMISSION RESULTS:
------------
___ 11:20PM BLOOD WBC-5.5 RBC-3.65* Hgb-11.3* Hct-33.7* 
MCV-92 MCH-31.0 MCHC-33.6 RDW-14.1 Plt ___
___ 11:20PM BLOOD Glucose-101* UreaN-9 Creat-0.7 Na-139 
K-3.6 Cl-105 HCO3-24 AnGap-14
___ 09:00AM BLOOD ALT-33 AST-31 LD(LDH)-228 CK(CPK)-90 
AlkPhos-99 TotBili-0.3
___ 11:40PM BLOOD Lactate-0.9
___ 03:10AM URINE Color-Yellow Appear-Clear Sp ___
___ 03:10AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-SM 
___ 03:10AM URINE RBC-2 WBC-5 Bacteri-NONE Yeast-NONE Epi-3
___ 03:10AM URINE bnzodzp-POS barbitr-NEG opiates-POS 
cocaine-NEG amphetm-NEG mthdone-NEG

-------------------
TOXICOLOGY, URINE ___ 03:00
Benzodiazepine Screen, UrinePOS  
BENZODIAZEPINE IMMUNOASSAY SCREEN DOES NOT DETECT SOME 
DRUGS,;INCLUDING LORAZEPAM, CLONAZEPAM, AND FLUNITRAZEPAM
Barbiturate Screen, UrineNEG  
Opiate Screen, UrinePOS  
OPIATE IMMUNOASSAY SCREEN DOES NOT DETECT SYNTHETIC OPIOIDS;SUCH 
AS METHADONE, OXYCODONE, FENTANYL, BUPRENORPHINE, 
TRAMADOL,;NALOXONE, MEPERIDINE. 
Cocaine, UrineNEG  
Amphetamine Screen, UrineNEG  
Methadone, UrineNEG  

------------
IMAGING:
STRESS ECHO ___
___ year old female hypertension who was referred to the lab for 
atypical
chest pain, shortness of breath, and syncope in the setting of 
serial
negative cardiac markers. The patient did 7.3 minutes on a 
modifed
Gervino protocol and achieved ___ METS which represents poor 
exercise
tolerance for her age. The test was terminated due to patient's 
request
with report of dizziness with stable hemodynamics which likely
represented vertigo. She had no progressive chest, arm, back or 
neck
discomfort during exercise or recovery. She had no ST segment 
changes
that were noted. Her rhythm was sinus without APBs or VPBs. She 
had an
appropriate blood pressure response to exercise with a blunted 
heart
rate response in the setting of beta blocker use.
IMPRESSION: No ischemic EKG changes, ectopy or anginal symptoms.

EEG ___
ABNORMALITY #1: Brief runs lasting ___ seconds in duration of 
left anterior
to midtemporal theta frequency slow waves were seen; 
occasionally, these had
sharp contours, and more infrequently, culminated in sharp 
waves.
ABNORMALITY #2: Throughout, background frequencies were in the 
___ Hz theta
frequency range.
BACKGROUND: As above.
HYPERVENTILATION: Was contraindicated due to the patient's 
reported history
of atrial fibrillation.
INTERMITTENT PHOTIC STIMULATION: Produced no activation of the 
record.
SLEEP: The patient progressed from apparent wakefulness through 
apparent
drowsiness with attenuation and slowing of background 
frequencies evident.
The runs of focal, theta frequency sharp slowing were activated 
by
drowsiness.
CARDIAC MONITOR: Revealed a generally regular rhythm with 
average rate of 66
bpm.

IMPRESSION: This is an abnormal EEG due to the presence of brief 
runs of
left anterior to midtemporal sharp slowing superimposed upon a 
slower than
average background. This pattern is consistent with a mild 
encephalopathy
along with a focus of potential epileptogenesis in the left 
anterior to
midtemporal region.

CT C-SPINE ___
No acute fracture or abnormal alignment is seen.  There are
moderate-to-severe degenerative changes in the cervical spine 
including
anterior osteophyte formation at the C2, C4, C5, C6 and C7 
vertebral bodies. 
There is no prevertebral soft tissue swelling.  The 
aerodigestive tract is
patent.  The thyroid is normal.  Ground-glass opacity in the 
lung apices could
represent infection or aspiration.  There is prominent bilateral 
cervical
lymph nodes, none of which are enlarged by CT size criteria.
 
IMPRESSION:  No acute fracture or abnormal alignment.  Prominent 
bilateral
cervical lymph nodes.

CT HEAD (NONCONTRAST) ___
FINDINGS:  There is no acute hemorrhage, edema, mass, mass 
effect or acute
large vascular territorial infarction.  The ventricles and sulci 
are normal in
size and configuration.  The basal cisterns are patent.  
Gray-white matter
differentiation is preserved.
No fracture is identified.  There is minimal mucosal thickening 
in the ethmoid
air cells and maxillary sinuses.  The sphenoid sinuses and 
mastoid air cells
are clear.  The globes appear normal.
 
IMPRESSION:  No acute intracranial process.

CT T SPINE ___
FINDINGS:
No acute fracture or abnormal alignment is seen.  There are mild
degenerative changes within the thoracic spine including mild 
multilevel facet
joint hypertrophy.  There is calcification within the T7/T8 
intervertebral
disc space and an anterior osteophyte at this level.  There are 
no concerning
osteoblastic or osteolytic lesions.  The thyroid appears normal. 
 Limited
evaluation of the heart, aorta and intra-abdominal organs is 
unremarkable. 
Evaluation of the lungs is limited due to respiratory motion; 
however, no
focal areas of consolidation are seen.
 
IMPRESSION:  No fracture or abnormal alignment.

 
Brief Hospital Course:
___ fibromyalgia, PTSD, depression, opiod dependence on 
suboxone, and benzodiazepine abuse with recent benzodiazepine 
detoxification who presents with pseudo seizure.

ACUTE ISSUES:
-----------------

# PRESYNCOPE: Evidenced by further characterization with Dr. ___ 
___ ___, ___) who stated that the 
episode was witnessed by a staff member and that patient did not 
experience loss of consciousness and that she "slid down in her 
chair".  Alternate etiologies for her seizure-like episode 
include 1) cardiac dysrhythmias, which remain less likely in the 
absence of events over >48hours of electrophysiologic telemetry 
monitoring; 2) structural heart disease, which remains less 
likely in the absence of physical exam findings findings or ECG 
findings which might suggest the same; 3) ischemic heart 
disease, which remains less likely given stress echo without 
evidence of ischemic changes; 4) intrinsic seizure disorder, 
which is less likely given EEG which is not suggestive of 
primary seizure disorder; 5) benzodiazepine withdrawl seizure, 
which is less likely given the absence of tachycardia, 
agitation, or other symptoms of benzodiazepine withdrawl while 
hospitalized at ___ or ___. The patient did not score 
on the CIWA scale sufficiently to receive any benzodiazepines. 
The patient was prescribed NO STANDING BENZODIAZEPINES after 
___ AM. She remained stable for 96 hours without ANY 
benzodiazepines.   

#DISPOSITION:  The patient's sons refused to house the patient 
upon discharge. Social work met extensively with the patient, 
providing her with resources to ensure her safe transition to a 
homeless shelter upon completion of her medical workup. Dr. 
___ at ___ confirmed that the patient was discharged 
from ___ upon transfer to ___. The patient continued to 
evidence competence at the time of her discharge. 

# SUICIDAL GESTURE: RESOLVED. Patient denied suicidal thoughts 
throughout her hospital stay at ___. 

# CHEST PAIN: Resolved. Due to atypical rest pain. Ischemic or 
cardiac etiologies remain extremely unlikely given the absence 
of CAD, no concerns on EKG and trop neg x 2. 

# HTN: controlled. cont atenolol.  
 
# OPIATE DEPENDENCE: STABLE. Confirmed suboxone dosing and 
schedule as SUBOXONE 8mg-2mg BID with office of Dr. ___ 
___ at ___, ___

CHRONIC ISSUES:

# FIBROMYALGIA: 
- Continue gabapentin

# GERD: cont pantoparzole  

# MDD: Continued duloxetine.

-----------
TRANSITIONAL ISSUES:

# Cervical LAD:  Noted incidentally on CT. Please followup with 
your PCP to ensure resolution. 

# VERTIGO: Followup with ___ Neurology Urgent Care

# SYNCOPE FOLLOWUP: Please followup with ___ Neurology Urgent 
Care for MRI and repeat EEG  given the brief runs of left 
anterior to midtemporal sharp slowing superimposed upon a slower 
than
average backgrounds noted on ___ EEG. 

#LEFT ARM PAIN: Please followup at ___ Neurology Urgent Care 
for an EMG to evaluate for median neuropathy and left wrist 
splint.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 800 mg PO TID 
2. Atenolol 25 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL BID 
5. Lisinopril 20 mg PO DAILY 
6. Duloxetine 60 mg PO DAILY 

 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL BID 
3. Gabapentin 800 mg PO TID 
4. Pantoprazole 40 mg PO Q24H 
5. Lisinopril 20 mg PO DAILY 
6. Duloxetine 60 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
LEFT ARM WEAKNESS DUE CERVICAL RADICULOPATHY
DIZZINESS SECONDARY TO CERVICAL RADICULOPATHY
BENZODIAZEPINE ABUSE
OPIATE ABUSE
PRESYNCOPAL EPSIODE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege caring for you at ___. You were admitted 
due to chest pain after you slouched in a chair at ___ 
___. You underwent an extensive heart workup which did not 
show a reason we could find in the pumping or rhythm of your 
heart. We examined your brain for any abmormal electrical 
activity of your brain which would explain your symptoms, with 
some finding suggestive of benzodiazepine use.Your 
benzodiazepines have been discontinued and you were monitored 
while you were in the hospital for possible withdrawal symptoms.
 Your arm pain and dizziness is probably due to compression of 
some nerves in your cerivcal spine, and the neurologists ask 
that you followup in urgent care neurology clinic for more 
imaging that would help confirm this diagnosis. 
 Please avoid benzodiazepines and opiate medications in the 
future. We have provided you with resources to assist with your 
ongoing abstinence from these medications.  The phone number for 
the BEST team is below.  Please get referal for counselling and 
cognitive behavioral therapy from your psychiatrist or primary 
care physician to help better manage your anxiety. 
 
Followup Instructions:
___